US07652009B2
Step 1: Preparation of 1-(4-hydroxyphenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester
A mixture of 4-amino-phenol (3 g, 0.027 mol) and 2-methylene-succinic acid dimethyl ester (4.35 g, 0.027 mol) was heated to 110° C. for 16 h. The dark brown glass was dissolved in EtOAc and purified by silica gel chromatography (20% EtOAc/hexane to EtOAC) to give the title compound as an orange oil. MS (ESI pos. ion) m/z: 236.2 (M+H). Calc'd Exact Mass for C12H13NO4: 235.24.

reactant | 4-amino-phenol | 0.027 mol, 3 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | 2-methylene-succinic acid dimethyl ester | 0.027 mol, 4.35 g | COC(C(CC(=O)OC)=C)=O | C7H10O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(4-hydroxyphenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C(C1)=O)C1=CC=C(C=C1)O | C12H13NO4
